Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left forearm/wrist mass
 
Major Surgical or Invasive Procedure:
1. Excision of mass, left distal forearm/wrist

 
History of Present Illness:
Ms. ___ is a ___ female who presents today for 
evaluation of
her lump located on her left wrist.  Her daughter accompanies 
her
today during this visit. She reports that the lump was first
noticed in ___.  She denies any history of traumatic
event; however, she did state that the lump has been painful
since the date of presentation.  She reports that the overall
size of the lump continues to increase and decrease
intermittently & without any provocation.  However, the overall
size of it does appear to gradually be increasing.  The pain
seems also to be increasing as well to the point now where she
refuses to let her caretakers touch the volar aspect of her 
wrist
where the lump is located.  ___ unfortunately had a subarachnoid
hemorrhage due to an aneurysm back in ___.  She was treated at
___ and underwent a clipping of the MCA vessel as well as
craniotomy with partial craniectomy done at that time.  She is
left with significant deficit on the left upper extremity with
very limited activity of the left hand, wrist and elbow. She
denies any radicular symptoms.  No numbness and tingling is
present.

 
Past Medical History:
Subarachnoid hemorrhage status post craniotomy, partial 
craniectomy as well as clipping of the right
CMA, seizures, hyperlipidemia, high blood pressure, depression,
trach in place, PEG was also in place.  No current p.o. intake,
anxiety.

 
Social History:
___
Family History:
FAMILY HISTORY:  Uncertain for any pertinent history:  The
patient does not know parents died at a very young age.

 
Physical Exam:
Please see daily progress note complete details.
In general this is a pleasant elderly female, resting 
comfortably, in no apparent distress
Focused examination of her left upper extremity reveals surgical 
dressings in place, clean, dry, and intact
The ace wraps were taken down but the operative dressings were 
left in place.
The left hand is warm and well perfused, with a 2+ radial pulse 
and brisk capillary refill in all the fingers
Sensation is intact to the radial, median, and ulnar nerves. 
Unable to assess motor function secondary to resultant 
hemiparesis from a prior CVA. Patient however is able to move 
the small finger.
 
Brief Hospital Course:
The patient presented to the ___ clinic and was 
evaluated by Dr. ___. The patient was found to have 
a left distal forearm/wrist mass, which was previously biopsed 
and found to be a Schwannoma. The patient was admitted through 
the day surgery program at ___ 
for an excision of this left distal forearm mass. She was taken 
to the operating room for this procedure on ___. She 
tolerated the procedure well (for full details, please see the 
separately dictated operative report). Te was then taken from 
the OR to the PACU in stable condition and after recovery from 
anesthesia was transferred to the floor.  The patient was 
initially given IV fluids and IV pain medications, and 
progressed to her regular tube-feed diet and oral medications by 
POD#0. The patient was given perioperative antibiotics and 
anticoagulation per routine.  The patients home medications were 
continued throughout this hospitalization. The ___ 
hospital course was otherwise unremarkable. On POD #1, the 
patient was declared medically stable and fit for discharge. 

At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, incisions were 
clean/dry/intact, and the patient was voiding/moving bowels 
spontaneously. The patient is weight-bearing as tolerated in the 
left upper extremity. The patient will follow up in two weeks 
per routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course, and 
all questions were answered prior to discharge.

 
Medications on Admission:
Please see medication list on the OMR.
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain/fever 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing/SOB 
4. ALPRAZolam 0.25 mg PO BID:PRN anxiety 
5. Amlodipine 10 mg PO DAILY 
6. Atorvastatin 20 mg PO DAILY 
7. Citalopram 20 mg PO DAILY 
8. Divalproex Sod. Sprinkles 250 mg PO TID 
9. Docusate Sodium 100 mg PO DAILY:PRN constipation 
10. Labetalol 300 mg PO TID 
11. LeVETiracetam 750 mg PO BID 
12. Methimazole 5 mg PO DAILY 
13. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
14. OxycoDONE (Immediate Release)  2.5 mg NG Q6H:PRN pain 

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Left forearm/wrist mass (suspected Schwannoma)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- You have no external sutures or staples. Therfore, you have no 
sutures or staples that will need to be removed.
- No dressing is needed if wound continues to be non-draining.

ACTIVITY AND WEIGHT BEARING:
- You may use your left arm as tolerated. There are no 
restrictions on the activity in your left arm.

Orthopedic Surgery Follow-Up:

You will have a follow-up appointment scheduled with Dr. 
___ in approximately 2 weeks from discharge. This 
appointment is usually scheduled prior to your surgery. If you 
do not remember the appointment details or want to confirm your 
appointment, please call the clinic at ___.

Please follow up with your primary care doctor regarding this 
admission and any new medications/refills.

Danger Signs:

Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

Physical Therapy:
Activity as tolerated, left upper extremity. No weight-bearing 
restrictions. 
Treatments Frequency:
Wound Care Instructions:
- Leave the dressing on until 48 hours after surgery. At this 
point you may take the dressing down and change it. We recommend 
sterile 4x4 gauze and tegederm.
- Continue to change the dressings daily until the wound becomes 
dry.
- Once dry you may leave the wound to air (i.e. without any 
dressings). Remember to leave the steri-srips on. These will 
slowly start to peel and fall off on their own.

Showering
You may shower 48 hours after your surgery and get your 
incisions wet.  DO NOT immerse in a tub or pool for 7 – 10 days 
to avoid excessive scarring and risk of infection.

 
Followup Instructions:
___